US07163951B2
A solution of 3-fluoro-5-iodopyridine-2-carbonitrile (1.08 g, 3.87 mmol) in 10 mL of THF and palladium tetrakistriphenylphosphine (0.18 g, 0.16 mmol) was added to a solution of [3-fluoro-2-(methoxycarbonyl)phenyl](iodo)zinc (prepared from methyl 2-fluoro-6-iodobenzoate and Reike Zinc) in 20 mL of THF via cannula. The mixture was heated to reflux for one hour, cooled, and partitioned between ethyl acetate and water. The organic extract was washed with brine, dried over MgSO4, filtered and concentrated under vacuum. The residue was subjected to silica gel chromatography eluted with 0–20% ethyl acetate in hexanes to provide methyl 2-(6-cyano-5-fluoropyridin-3-yl)-6-fluorobenzoate that gave proton NMR spectra consistent with theory.

reactant | 3-fluoro-5-iodopyridine-2-carbonitrile | 3.87 mmol, 1.08 g | FC=1C(=NC=C(C1)I)C#N | C6H2FIN2
reactant | [3-fluoro-2-(methoxycarbonyl)phenyl](iodo)zinc | FC=1C(=C(C=CC1)[Zn]I)C(=O)OC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 2-(6-cyano-5-fluoropyridin-3-yl)-6-fluorobenzoate | C(#N)C1=C(C=C(C=N1)C1=C(C(=O)OC)C(=CC=C1)F)F | C14H8F2N2O2
